US04731447
Step B: 3-[2-(phenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide
Tetrahydrofuran (125 mL), N-(1,1-dimethylethyl)-3-methyl-2-pyridine carboxamide (1 equivalent) and sodium bromide (1.3 g) are charged and cooled to -40° C. under nitrogen. Two equivalents of n-butyllithium are then added over 40 minutes. When half the n-butyllithium is added the mixture turns purple. Benzyl chloride (1.05 equivalents) is then added dropwise (1:1 solution in tetrahydrofuran) over 40-50 minutes while the temperature is maintained at -40° C. After 30 minutes at -40° C., the mixture is diluted with water (250 ml) and the organic phase separated. This phase is dried over sodium sulphate and the solvent removed yielding an oil from which solid product may crystallize. Product yield of 94% determined by internal standard assay on gas chromatograph.

reactant | N-(1,1-dimethylethyl)-3-methyl-2-pyridine carboxamide | 1 equivalent | CC(C)(C)NC(=O)C1=NC=CC=C1C | C11H16N2O
reactant | sodium bromide | 1.3 g | [Br-].[Na+]
reactant | n-butyllithium | Two equivalents | C(CCC)[Li]
reactant | Benzyl chloride | 1.05 equivalents | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 250 ml | O | H2O
solvent | Tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | 3-[2-(phenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide | yield of 94% | C1(=CC=CC=C1)CCC=1C(=NC=CC1)C(=O)NC(C)(C)C | C18H22N2O
